Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / codeine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with history of hyperlipidemia, scleroderma,
osteopenia presents to the ED with fever and shortness of 
breath.
She reports that four days ago she started feeling "not well."
She reported a fever (Tmax ___, "chattering," diffuse body
aches and shortness of breath. She saw her PCP ___ ___ where she
was influenza negative, but was discharged with Tamiflu. She
reports that she has been taking the medication as prescribed 
but
had persistent symptoms including worsening fatigue and 
developed
a productive cough. She saw her PCP again today where she was
noted to be hypoxic to 88% on RA. She was transferred to ___
for further evaluation. Upon arrival she continues to endorse a
subjective fever, shortness of breath, fatigue, and a cough. She
denies any chest pain, abdominal pain, nausea, vomiting,
diarrhea, or dysuria. She notes recent travel to ___ (flew
back over one week ago).

In the ED, initial vitals were 99.2 82 103/65 18 100% 2L NC. 
Exam showed diminished breath sounds in bilateral lung bases,
crackles in LLL.  Labs were overall unremarkable, including
lactate 1.3, negative flu testing.  CXR showed increased
interstitial markings.  She received 1 gram IV ceftriaxone, IV
azithromycin, 20 mg PO citalopram, and 650 mg PO acetaminophen. 
Blood and urine cultures were sent.
 
Currently, the patient reports feeling better.  She has mild
shortness of breath, but improved.  
 
 
Review of systems:  
10 pt ROS negative other than noted

 
Past Medical History:
Scleroderma
Depression
 
Social History:
___
Family History:
Mother and maternal grandmother with CAD
Sister with breast cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=========================
Vitals: ___ Temp: 98.4 PO BP: 99/59 HR: 85 RR: 18 O2
sat: 97% O2 delivery: 2L Nc 
___ O2 sat: 95% O2 delivery: RA Dyspnea: 2 RASS: 0 
Pain
Score: ___  
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Diminished breath sounds at bases, no rhonchi or wheezing. 

ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema  
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.  

Discharge:
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Diminished breath sounds at bases, some rhonchi in L lung
bases
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema  
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.

 
Pertinent Results:
ADMISSION LABS:
=================
___ 02:08PM BLOOD WBC-9.9 RBC-3.76* Hgb-11.2 Hct-33.9* 
MCV-90 MCH-29.8 MCHC-33.0 RDW-14.8 RDWSD-49.2* Plt ___
___ 02:08PM BLOOD Glucose-96 UreaN-13 Creat-0.7 Na-135 
K-3.9 Cl-100 HCO3-21* AnGap-14
___ 08:00AM BLOOD ALT-117* AST-50* AlkPhos-611* TotBili-0.5
___ 08:45AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 06:24AM BLOOD CRP-177.1*

___ 2:08 pm BLOOD CULTURE
Blood Culture, Routine (Pending):    No growth to date. 

**FINAL REPORT ___
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 

IMAGING
========
CXR ___
FINDINGS: 
Heart appears slightly enlarged compared to prior.  Increased 
interstitial
markings throughout.  Additionally, there are small bilateral 
effusions. 
Associated opacities at the left lower lung, which could reflect 
atelectasis. 
Retrocardiac opacification, best seen on the lateral view, may 
indicate
superimposed infection.  Probable right basilar atelectasis.  No 
pneumothorax.
 
IMPRESSION: 
Small bilateral pleural effusions.  Increased interstitial 
markings throughout
the lungs, potentially due to interstitial edema though atypical 
infection
would be possible.  More confluent left basilar opacity which 
could reflect
atelectasis versus infection.

CXR ___
FINDINGS: 
Cardiac, mediastinal and hilar contours appear stable.  Small 
pleural
effusions are similar to mildly increased.  Slightly worse 
interstitial
process suggests mild pulmonary edema.  Each lung base, there 
is, in
association with the slight decrease in lung volumes, some 
increase in basilar
opacities that can probably be attributed to atelectasis.
 
IMPRESSION: 
Increased pleural effusions and atelectasis.  Mild increase in 
pulmonary
edema.  These findings are not very suggestive of pneumonia 
although
possibility of coinciding subtle infection is not excluded.

RUQ US ___:
=======
FINDINGS: 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the
liver is smooth. There is no focal liver mass. The main portal 
vein is patent
with hepatopetal flow. There is no ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation.
 CHD: 4 mm
 
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.
 
SPLEEN:  Normal echogenicity.
 Spleen length: 10.0 cm
 
KIDNEYS:  Limited views of the kidneys show no hydronephrosis.
 Right kidney: 10.1 cm
 Left kidney: 10.8 cm
 
RETROPERITONEUM:  The visualized portions of aorta demonstrate 
atherosclerotic
plaque.
 
OTHER: There are bilateral pleural effusions, small to 
moderately sized.
 
IMPRESSION:
1. No evidence of cholecystitis.  No focal liver lesions or 
biliary
dilatation.
2. Bilateral pleural effusions, small to moderately sized.

Discharge:

___ 08:45AM BLOOD WBC-8.6 RBC-3.37* Hgb-9.8* Hct-29.7* 
MCV-88 MCH-29.1 MCHC-33.0 RDW-14.6 RDWSD-47.7* Plt ___
___ 02:08PM BLOOD Neuts-80.4* Lymphs-8.3* Monos-6.6 Eos-3.4 
Baso-0.3 Im ___ AbsNeut-7.98* AbsLymp-0.82* AbsMono-0.65 
AbsEos-0.34 AbsBaso-0.03
___ 08:45AM BLOOD Plt ___
___ 08:45AM BLOOD Glucose-93 UreaN-8 Creat-0.7 Na-139 K-4.3 
Cl-101 HCO3-26 AnGap-12
___:45AM BLOOD ALT-97* AST-46* AlkPhos-598* TotBili-0.4
___ 08:45AM BLOOD Calcium-8.8 Phos-3.6 Mg-1.9
___ 08:45AM BLOOD CRP-104.8*
 
Brief Hospital Course:
___ year old female with history of hyperlipidemia, scleroderma, 
osteopenia presents to the ED with fever and shortness of 
breath, found to have community acquired pneumonia.

# Pneumonia 
# Fever: She presented with cough, generalized body weakness, 
increased interstitial markings on CXR, with diminished breath 
sounds on bases. She initially required O2 supplementation. She 
was initially started on ceftriaxone and azithromycin. However 
she continued to spike fevers even 48 hours after initiation of 
CTX and Azithro, hence antibiotics were changed to Ceftazidime + 
Azithro for two days prior to discharge. She was subsequently 
afebrile. She eventually was discharged on Levaquin 750 mg daily 
for 2 more days. Her blood cultures were negative. We advised 
her to hold her citalopram while taking Levaquin given QT 
prolonging, but she can restart on ___. She is advised to have a 
follow up CXR with her PCP (she has an appointment ___. 

#Elevated LFTs: Suspect drug-induced elevation in ALT>AST and 
ALK PHOS. RUQ negative for gallstones. Hpatitis panel performed 
- revealed immunized status. LFTs trended down. Outpatient 
followup recommended with PCP. 

# Scleroderma: limited, not on therapy currently. Patient can
take civemiline if she brings it in

# Depression: continue home citalopram

TRANSITIONAL ISSUES:
======================
-Repeat CXR in around 4 weeks to ensure that LLL infiltrate has 
resolved since she had a LLL pneumonia in ___ ___nd to 
ensure effusions have decreased/resolved. If still has 
interstitial abnormalities, consider checking CT chest, 
especially given underlying scleroderma.
-Repeat LFTs ___ during PCP ___. 

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. cevimeline 30 mg oral TID 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H Duration: 5 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*1 
Tablet Refills:*0 
2.  cevimeline 30 mg oral TID  
3. HELD- Citalopram 20 mg PO DAILY  This medication was held. Do 
not restart Citalopram until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia
Pleural effusion
Transaminitis (elevated liver function test)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You presented with weakness, fever and shortness of breath and 
were found to have a pneumonia with a small amount of fluid in 
your lungs. You were treated with antibiotics. Your liver 
function tests were found to be abnormal and a liver ultrasound 
was unremarkable. Follow up with your PCP (appointment has been 
made, see below) to follow up on your liver function and chest 
xray findings. 

We wish you the best. 
Your ___ Team
 
Followup Instructions:
___